US08404709B2
2-Methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile
300 mg (1.59 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 167.5 mg (1.59 mmol) of sodium 1-cyanoprop-1-en-2-olate, 175 mg (1.59 mmol) of 4-aminopyridin-2(1H)-one [Searls, T., McLaughlin, L. W., Tetrahedron 55, 11985-11996 (1999)] and 137 μl (2.39 mmol) of acetic acid in 12 ml of 2-propanol and heated under reflux under argon for 12 h. After cooling, the reaction mixture is filtered and the remaining solid is washed with diethyl ether (20 ml). 454 mg (82% of theory) of the title compound are obtained as a white solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 1.59 mmol, 300 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | sodium 1-cyanoprop-1-en-2-olate | 1.59 mmol, 167.5 mg | C(#N)C=C(C)[O-].[Na+]
reactant | 4-aminopyridin-2(1H)-one | 1.59 mmol, 175 mg | NC1=CC(NC=C1)=O | C5H6N2O
reactant | acetic acid | 2.39 mmol, 137 μl | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 12 ml | CC(C)O | C3H8O
product | 2-Methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile | CC=1NC=2C=CNC(C2C(C1C#N)C=1C=CC=C2C(C=C(OC12)C)=O)=O | C20H15N3O3
